US04902686
To a stirred suspension of 6-chloro-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline-3-carboxylic acid (2.1 g,7.4 mmol) in 50 ml of tetrahydrofuran was gradually added 1,1'-carbonyldimidazole (1.74 g, 10.7 mmol) at room temperature, whereafter the mixture was refluxed for 7 h. The reaction mixture was evaporated in vacuo and the residue triturated with 30 ml of water. The precipitate was filtered off, rinsed with water and dried giving 1.56 g (64%) of 1-((6-Chloro-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline-3-yl)carbonyl)imidazole. M.p. 242°-243° C.

reactant | 6-chloro-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline-3-carboxylic acid | 7.4 mmol, 2.1 g | ClC1=C2C(N(C=3N(C2=CC=C1)C=NC3C(=O)O)C)=O | C12H8ClN3O3
reactant | 1,1'-carbonyldimidazole | 10.7 mmol, 1.74 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-((6-Chloro-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline-3-yl)carbonyl)imidazole | 1.56 g, 64% | ClC1=C2C(N(C=3N(C2=CC=C1)C=NC3C(=O)N3C=NC=C3)C)=O | C15H10ClN5O2
